US05618811
H. N-tert-butyl-2-(3-amino-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide
A solution of 5.80 grams (14.3 retool) N-tert-butyl-2-(3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide in 70 mL ethanol (with methylene chloride as necessary to aid dissolution) was treated with 600 mg 10% palladium on carbon under hydrogen (42 to 39 psi) for 20.5 hours. The reaction was filtered through Celite® with ethanol and methylene chloride and evaporated to a foam, 5.44 grams (100%).

reactant | N-tert-butyl-2-(3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide | 5.80 grams | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)N=[N+]=[N-])=O)=O | C22H25N5O2
solvent | ethanol | 70 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
product | N-tert-butyl-2-(3-amino-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O)=O | C22H27N3O2
